US09063126B2
4-methoxy-6,7,8,9,10,11-hexahydro-5H-7,11-epiminocycloocta[b]indole
A suspension of (2-methoxyphenyl)hydrazine hydrochloride (875 mg, 5.0 mmol; TCI-US), tropinone (696 mg, 5.0 mmol; Aldrich), and 4 M HCl-dioxane (2.5 mL, 10.0 mmol; Aldrich) in ethanol (10 mL) was heated to 80° C. for 16 hours. After cooling to room temperature, the reaction mixture was concentrated, basified with 5 N NaOH (aqueous), and then extracted with ethyl acetate (3×50 mL). The combined organic phase was concentrated and the residue was purified by reverse-phase HPLC [Waters XBridge™ RP18 column, 5 μm, 30×100 mm, flow rate 40 mL/minute, 20-95% gradient of methanol in buffer (0.1 M aqueous ammonium bicarbonate, adjusted to pH 10 with ammonium hydroxide)] to afford the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 1.62-1.80 (m, 1H), 1.97 (t, J=9 Hz, 1H), 2.24-2.38 (m, 2H), 2.47 (s, 3H), 2.57 (d, J=17 Hz, 1H), 3.25-3.36 (m, 1H), 3.65-3.73 (m, 1H), 3.92 (s, 3H), 4.34 (d, J=4Hz, 1H), 6.59 (d, J=8 Hz, 1H), 6.87-6.95 (m, 1H), 6.97-7.04 (m, 1H); MS (DCI/NH3) m/z 243 (M+H)+.

reactant | (2-methoxyphenyl)hydrazine hydrochloride | 5.0 mmol, 875 mg | Cl.COC1=C(C=CC=C1)NN
reactant | tropinone | 5.0 mmol, 696 mg | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | HCl dioxane | 10.0 mmol, 4 M, 2.5 mL | Cl.O1CCOCC1
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-methoxy-6,7,8,9,10,11-hexahydro-5H-7,11-epiminocycloocta[b]indole | COC=1C=CC=C2C3=C(NC12)CC1CCCC3N1 | C15H18N2O
